US04649219
Added to 20 ml of N,N-dimethylformamide were 1.34 g of acrylic amide and 3.4 g of (4-bromobutoxy)benzene. With stirring, 0.88 g of flaky potassium hydroxide which had been ground in a mortar was added. Phenothiazine was added in an amount of 0.5% based on the acrylic amide. After they were reacted at 0°-5° C. for 6 hours, insoluble matter was filtered off from the liquid reaction mixture. The solvent and unreacted raw materials were distilled off from the filtrate. The residue was extracted with benzene-water, thereby obtaining the intended product in the benzene layer. Benzene was then driven off from the benzene layer to obtain 2.66 g of N-(4-phenoxybutyl)acrylic amide (yield: 81%). It was purified further with column chromatography in which silica gel and benzene were used as an adsorbent and developer respectively. Its melting point was measured and its elementary analysis was also conducted. The following results were obtained. Melting point: 46°-47° C. Elementary analysis data: C, 71.29% (Calculated: 71.19%); H, 7.31% (7.82%); N, 6.15% (6.38%).

reactant | acrylic amide | 1.34 g | C(C=C)(=O)N | C3H5NO
reactant | (4-bromobutoxy)benzene | 3.4 g | BrCCCCOC1=CC=CC=C1 | C10H13BrO
reactant | potassium hydroxide | 0.88 g | [OH-].[K+]
reactant | Phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(4-phenoxybutyl)acrylic amide | 2.66 g, yield: 81% | O(C1=CC=CC=C1)CCCCNC(C=C)=O | C13H17NO2
